US07109186B2
Compound 868: 4-Hydroxy-1-methyl-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid [3-(3,4-dichlorophenyl)-propyl]-methyl-amide
Reaction of N-[3-(3,4-dichlorophenyl)-propyl]-2-(2,2-dimethyl-5-oxo-[1,3]-dioxolan-4-ylidene)-N-methyl-acetamide (0.570 g, 1.53 mmol) with the paraformaldehyde-methylamine adduct in methanol using a procedure similar to the one described in the preparation of compound 44 (method 44B) gave 0.287 g (52% yield) of the title compound as white crystals; mp 138–140° C. (ethyl acetate-hexane). 1HNMR 400 MHz (CDCl3) δ (ppm); 1.80 (2H, m, CH2), 2.49 (2H, t, J=7.6 Hz, CH2), 2.92 (3H, s, NCH3), 2.95 (3H, s, NCH3), 3.31 (2H, broad t, J=7.3 Hz, NCH2), 3.87 (2H, broad s, NCH2), 6.91 (1H, dd, J=2.0 Hz and J=8.1 Hz, aromatic), 7.16 (1H, d, J=2.0 Hz, aromatic), 7.23 (1H, d, J=8.1 Hz, aromatic), 10.94 (1H, broad s, OH). Anal. Calcd for C6H18Cl2N2O3: C, 53.80; H, 5.08; N, 7.84. Found: C, 53.90; H, 5.17; N, 7.83.

reactant | N-[3-(3,4-dichlorophenyl)-propyl]-2-(2,2-dimethyl-5-oxo-[1,3]-dioxolan-4-ylidene)-N-methyl-acetamide | 1.53 mmol, 0.570 g | ClC=1C=C(C=CC1Cl)CCCN(C(C=C1OC(OC1=O)(C)C)=O)C | C17H19Cl2NO4
reactant | paraformaldehyde methylamine | C=O.CN
reactant | methanol | CO | CH4O
product | 4-Hydroxy-1-methyl-5-oxo-2,5-dihydro-1H-pyrrole-3-carboxylic acid [3-(3,4-dichlorophenyl)-propyl]-methyl-amide | 0.287 g, 52% yield | ClC=1C=C(C=CC1Cl)CCCN(C(=O)C=1CN(C(C1O)=O)C)C | C16H18Cl2N2O3
